US06124421
In synthetic route `C1` of FIG. 1, an alternate two step process for preparing BFPE consistant with the route in Sutherlin et al., Macromolecules, v.19, p.1260-1265 (1986) is shown. The first step is coupling commercially available tri-n-butyltin chloride (Aldrich Chemicals, Milwaukee, Wis.) with lithium acetylide ethylenediamine complex. These precursors are heated to reflux in anhydrous tetrahydrofuran (THF) under an argon blanket to form bis(tri-n-butylstannyl)ethyne. The THF solution of bis(tri-n-butylstannyl)ethyne is subsequently washed and then dried over anhydrous sodium sulfate.

reactant | tri-n-butyltin chloride | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | bis(tri-n-butylstannyl)ethyne | C(CCC)[Sn](CCCC)(CCCC)C#C[Sn](CCCC)(CCCC)CCCC | InChI=1S/6C4H9.C2.2Sn/c6*1-3-4-2;1-2;;/h6*1,3-4H2,2H3;;;
